US04178449
2-Methoxyethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
One hundred milligrams of metallic sodium is added to 50 ml. of 2-methoxyethanol and after it has dissolved, 3.35 g. of ethyl 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate is added and the mixture is refluxed for one hour. On cooling, the desired compound crystallizes from the solution and is removed by filtration. Recrystallization from methylene chloride-hexane affords the product as crystals, m.p. 111°-112° C.

reactant | sodium | One hundred milligrams | [Na] | Na
reactant | ethyl 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCC)(F)F | C16H12F3N3O2
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 2-Methoxyethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | COCCOC(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C17H14F3N3O3
